US07253286B2
N-(4-(6-Cyano-7-((1-methylpiperidin-3-yl)methoxy)-4-quinolyl)oxy-2-fluorophenyl)-N′-(4-fluorophenyl)urea
After dissolving 6-cyano-4-(4-(4-fluoroanilinocarbonyl)amino-3-fluorophenoxy)quinolin-7-ol sodium salt (222 mg), potassium carbonate (162 mg) and 3-chloromethyl-1-methylpiperidine hydrochloride (86 mg) in dimethylformamide (1.7 ml) and stirring the mixture overnight at 70–80° C., water was added, and extraction was performed with a tetrahydrofuran and ethyl acetate mixed solvent prior to concentration under reduced pressure and purification of the residue with NH Silica (Fuji Silysia Chemical). The obtained solid was washed with ether and dried to obtain the title compound (10 mg).

reactant | 6-cyano-4-(4-(4-fluoroanilinocarbonyl)amino-3-fluorophenoxy)quinolin-7-ol sodium salt | 222 mg | [Na].C(#N)C=1C=C2C(=CC=NC2=CC1O)OC1=CC(=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)F
reactant | potassium carbonate | 162 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloromethyl-1-methylpiperidine hydrochloride | 86 mg | Cl.ClCC1CN(CCC1)C
reactant | water | O | H2O
solvent | dimethylformamide | 1.7 ml | CN(C=O)C | C3H7NO
product | N-(4-(6-Cyano-7-((1-methylpiperidin-3-yl)methoxy)-4-quinolyl)oxy-2-fluorophenyl)-N′-(4-fluorophenyl)urea | 10 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCC1CN(CCC1)C)OC1=CC(=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)F | C30H27F2N5O3
